US06943159B1
A solution of benzenesulfonylchloride (10 ml; 78 mmol) in THF (100 ml) was added a 40% solution of dimethylamine in H2O (20 ml; 160 mmol) such that the reaction temperature was kept below 50° C. The reaction mixture was stirred 1 h at rt. The reaction mixture was added H2O and THF removed by evaporation. The precipitate formed was isolated by filtration and air dried to give 14 g (97%) of N,N-dimethylbenzenesulfonamide.

reactant | benzenesulfonylchloride | 78 mmol, 10 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | dimethylamine | CNC | C2H7N
reactant | H2O | 160 mmol, 20 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N,N-dimethylbenzenesulfonamide | 14 g, 97% | CN(S(=O)(=O)C1=CC=CC=C1)C | C8H11NO2S
